US06489487B1
To a solution of 2.29 g of 1-(3-phenylphenyl)ethylisocyanate in 8 ml of toluene was added dropwise 0.78 g (13 mmol) of N,N-dimethylhydrazine with ice-cooling. The mixture was removed from an ice bath and stirred for 1.5 hours. The reaction solution was concentrated, and the residue (2.89 g) was subjected to silica gel column chromatography (eluted with n-hexane:ethyl acetate=2:1and then 1:1 and then 1:2) to obtain 2.29 g (8.08 mmol) of 1,1-dimethyl-4-{1-(3-phenylphenyl)ethyl}semicarbazide as a viscous oil.

reactant | 1-(3-phenylphenyl)ethylisocyanate | 2.29 g | C1(=CC=CC=C1)C=1C=C(C=CC1)C(C)N=C=O | C15H13NO
reactant | N,N-dimethylhydrazine | 13 mmol, 0.78 g | CN(N)C | C2H8N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
product | 1,1-dimethyl-4-{1-(3-phenylphenyl)ethyl}semicarbazide | 8.08 mmol, 2.29 g | CN(NC(=O)NC(C)C1=CC(=CC=C1)C1=CC=CC=C1)C | C17H21N3O
